US06300342B1
6-amino-1-[3-(4-cyano-phenyl)propionyl]-1,2,3,4-tetrahydro-quinoline
16 g of 1-[3-(4cyano-phenyl)propionyl]-6-trifluoracetylamino-1,2,3,4-tetrahydro-quinoline are dissolved in 70 ml of methanol and 50 ml of dioxan and stirred with 200 ml of 1N sodium hydroxide solution for 2 hours at 40° C. Then the mixture is extracted with methylene chloride, the organic phase is dried over sodium sulphate and concentrated by evaporation.

reactant | 1-[3-(4cyano-phenyl)propionyl]-6-trifluoracetylamino-1,2,3,4-tetrahydro-quinoline | 16 g | C(#N)C1=CC=C(C=C1)CCC(=O)N1CCCC2=CC(=CC=C12)NC(C(F)(F)F)=O | C21H18F3N3O2
reactant | dioxan | 50 ml | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 1N, 200 ml | [OH-].[Na+]
solvent | methanol | 70 ml | CO | CH4O
product | 6-amino-1-[3-(4-cyano-phenyl)propionyl]-1,2,3,4-tetrahydro-quinoline | NC=1C=C2CCCN(C2=CC1)C(CCC1=CC=C(C=C1)C#N)=O | C19H19N3O
